US07244730B2
(Step 8) tert-Butyl N-{2-bromo-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate
After dissolving the N1-methyl-5-bromo-4-[({2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}amino)methyl]-2-ethoxybenzamide (1.75 g) in tetrahydrofuran (20 ml), tert-butyl dicarbonate (770 mg) was added. The mixture was heated to reflux for 2 hours, the reaction mixture was concentrated and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.97 g) as a white solid.

reactant | N1-methyl-5-bromo-4-[({2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}amino)methyl]-2-ethoxybenzamide | 1.75 g | CNC(C1=C(C=C(C(=C1)Br)CNCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)OCC)=O | C27H37BrN2O4
reactant | tert-butyl dicarbonate | 770 mg | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl N-{2-bromo-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate | 1.97 g | BrC1=C(CN(C(OC(C)(C)C)=O)CC(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C(=C1)C(=O)NC)OCC | C32H45BrN2O6
